US06297267B1
To a solution of (R)-2-(4,5-diphenyloxazol-2-yl)-1-trimethylsilyloxy-1-[3-(tertbutyldiphenylsiloxy)benzyl]-2-cyclohexene (10 g) in THF (50 ml) was added tetrabutylammonium fluoride (41 ml, 1M solution in THF) at room temperature. After being stirred for 4 hours, the mixture was diluted with EtOAc. The mixture was washed with 1N-HCl solution and brine and evaporated. The residue was dissolved in DMF (50 ml), followed by addition of K2CO3 (5 g) and ethyl bromoacetate (2.0 ml) at room temperature. The mixture was stirred for 2 hours at the same temperature and partitioned between EtOAc and water. The organic layer was washed with water and brine and evaporated in vacuo. The residue was purified by chromatography on silica gel to give ethyl (R)-{3-{[2-(4,5-diphenyloxazole-2-yl)-1-hydroxy-2-cyclohexen-1-yl]methyl}phenoxy}-acetate (5.3 g).

reactant | (R)-2-(4,5-diphenyloxazol-2-yl)-1-trimethylsilyloxy-1-[3-(tertbutyldiphenylsiloxy)benzyl]-2-cyclohexene | 10 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@](CCCC1)(CC1=CC(=CC=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O[Si](C)(C)C | C47H51NO3Si2
reactant | tetrabutylammonium fluoride | 1M, 41 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | ethyl (R)-{3-{[2-(4,5-diphenyloxazole-2-yl)-1-hydroxy-2-cyclohexen-1-yl]methyl}phenoxy}-acetate | 5.3 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@](CCCC1)(O)CC=1C=C(OCC(=O)OCC)C=CC1 | C32H31NO5
